US06943168B2
C. Synthesis of 1-{4-[2-(3,4-dimethoxy-phenoxy)ethyl]-piperazin-1-yl}-6,6-bis-(4-fluoro-phenyl)-hexan-1-one (P59)
To a solution of 4-(2-bromo-ethoxy)-1,2-dimethoxy benzene (1.41 g, 4.86 mmol) and 6,6-bis-(4-fluorophenyl)-1-piperazin-1-yl-hexan-1-one (1.81 g, 4.86 mmol.) in dry DMF (40 ml) was added K2CO3 (0.8 g, 5.83 mmol.) and the mixture stirred at 120° C. overnight. EtOAc was added, washed with water (2×30 ml), brine (3×10 ml), dried over MgSO4, and evaporated under reduced pressure. The produce was purified by column chromatography on silica (hexane:EtOAc 1:1), followed by EtOAc to give the desired product in 57% yield.

reactant | 4-(2-bromo-ethoxy)-1,2-dimethoxy benzene | 4.86 mmol, 1.41 g | BrCCOC1=CC(=C(C=C1)OC)OC | C10H13BrO3
reactant | 6,6-bis-(4-fluorophenyl)-1-piperazin-1-yl-hexan-1-one | 4.86 mmol, 1.81 g | FC1=CC=C(C=C1)C(CCCCC(=O)N1CCNCC1)C1=CC=C(C=C1)F | C22H26F2N2O
reactant | K2CO3 | 5.83 mmol, 0.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 1-{4-[2-(3,4-dimethoxy-phenoxy)ethyl]-piperazin-1-yl}-6,6-bis-(4-fluoro-phenyl)-hexan-1-one | 57% yield | COC=1C=C(OCCN2CCN(CC2)C(CCCCC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)=O)C=CC1OC | C32H38F2N2O4
